US05446121
treating (4-bromobenzylidene) (1-isopropyl-2-methylpropyl)amine with n-butyllithium to give para-lithiated (benzylidene) (1-isopropyl-2-methylpropyl)amine,

reactant | (4-bromobenzylidene) (1-isopropyl-2-methylpropyl)amine | BrC1=CC=C(C=NC(C(C)C)C(C)C)C=C1 | C14H20BrN
reactant | n-butyllithium | C(CCC)[Li]
product | (benzylidene) (1-isopropyl-2-methylpropyl)amine | C(C1=CC=CC=C1)=NC(C(C)C)C(C)C | C14H21N
